US05000777
1.7 ml of trifluoromethanesulfonic acid anhydride are added dropwise at a temperature of -15° C. to a solution of 2.5 g of 1-(2,2,3-trimethyl-3-hydroxyindan-1-yl)-5-imidazolecarboxylic acid methyl ester in 20 ml of pyridine. After a reaction period of 10 minutes the mixture is concentrated by evaporation in vacuo and the residue is chromatographed on silica gel using an ether/methylene chloride mixture (1:1). 1.2 g of 1-(2,2-dimethyl-3-methylideneindan-1-yl)-5-imidazolecarboxylic acid methyl ester are obtained in the form of brownish colourless crystals having a melting point of 125°-126° C.

reactant | trifluoromethanesulfonic acid anhydride | 1.7 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-(2,2,3-trimethyl-3-hydroxyindan-1-yl)-5-imidazolecarboxylic acid methyl ester | 2.5 g | COC(=O)C1=CN=CN1C1C(C(C2=CC=CC=C12)(O)C)(C)C | C17H20N2O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2,2-dimethyl-3-methylideneindan-1-yl)-5-imidazolecarboxylic acid methyl ester | 1.2 g | COC(=O)C1=CN=CN1C1C(C(C2=CC=CC=C12)=C)(C)C | C17H18N2O2
